US09119398B2
1-Phenylazepan-2-one (0.500 g, as prepared in Organic Letters 2000, pages 1101-1104) was dissolved in tetrahydrofuran (30 mL) and cooled to −78° C. To the solution was added LDA (2.0 mol/L in THF/heptane/ethylbenzene, 2.6 mL) dropwise. After stirring for 10 min between −55 and −50° C., the reaction mixture was warmed up to −40° C., stirred for 5 min and ethylformate (0.657 mL, 0.605 g) was added slowly. The mixture was warmed up to 0° C. and stirred for another 30 min. 2-Chloro-4-methyl-2H-furan-5-one (0.420 g in 2 mL of THF) was added dropwise. The reaction mixture was warmed up to room temperature and stirred for 3 h. Water and ethyl acetate were added and the layers were separated. The aqueous layer was extracted with ethyl acetate, the organic layers were combined, washed with water and brine, dried over Na2SO4 and the solvent was evaporated to give a brown residue which was purified by flash chromatography (0-100% ethyl acetate in cyclohexane). (3E)-3-[(4-methyl-5-oxo-2H-furan-2-yl)oxymethylene]-1-phenyl-azepan-2-one Ic-13 (0.103 g, 11%) was obtained as a white solid; mp: 150-160° C.; LCMS (Method D): 0.91 min; ES+314 (M+H+).

reactant | 1-Phenylazepan-2-one | 0.500 g | C1(=CC=CC=C1)N1C(CCCCC1)=O | C12H15NO
reactant | LDA | 2.0 mol/L, 2.6 mL | [Li+].CC(C)[N-]C(C)C
reactant | ethylformate | 0.657 mL, 0.605 g | C(C)OC=O | C3H6O2
reactant | 2-Chloro-4-methyl-2H-furan-5-one | 2 mL, 0.420 g | ClC1OC(C(=C1)C)=O | C5H5ClO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (3E)-3-[(4-methyl-5-oxo-2H-furan-2-yl)oxymethylene]-1-phenyl-azepan-2-one | CC1=CC(OC1=O)O\C=C/1\C(N(CCCC1)C1=CC=CC=C1)=O | C18H19NO4
